*SPICE model for AT-41410
*
.SUBCKT AT41410 60      20      40
LL1     20      25      .05NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T1
C1T1    25      0       .10PF
LT1     25      30      .38NH
C2T1    30      0       .10PF
*
LLB     30      35      .65NH
CCEB    30      50      .03PF
LL2     40      45      .01NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T2
C1T2    45      0       .03PF
LT2     45      50      .08NH
C2T2    50      0       .03PF
*
LLE     50      55      .1NH
CCEC    50      70      .03PF
LL3     60      65      .05NH
* PI NETWORK TO SIMULATE TRANSMISSION LINE T3
C1T3    65      0       .12PF
LT3     65      70      .42NH
C2T3    70      0       .12PF
*
CCBC    30      70      .05PF
* CALL DIE MODEL
XDIE    70      35      55      AT414
.ENDS

* DIE MODEL (excludes bond wires)
.SUBCKT AT414   75      20      85
CCB     20      60      .032PF
DCD1    20      60      DMOD    572
RRB1    20      25      1.07
DCD2    25      60      DMOD    680
RRB2    25      30      3.2 
DCD3    30      60      DMOD    340
RRB3    30      35      2.7 
RRC     60      75      5   
RRE     80      85      .24 
CCE     60      85      .032PF
QINT    60      35      80      QDIS     420
.ENDS
*
.MODEL  DMOD    D(IS=1E-25, CJO=2.45E-16, VJ=.76, M=.53, BV=45, IBV=1E-9)
.MODEL  QDIS    NPN (BF=100, BR=2.5, IS=1.65E-18, VA=20, TF=12PS,
+               CJE=2.4E-15, VJE=1.01, MJE=0.6, PTF=25, XTB=1.818,
+               VTF=6, ITF=3E-4, IKF=1.3E-4, XTF=4, NF=1.03, ISE=5E-15,
+               NE=2.5)
